US09126999B2
A 5 mL microwave vial was charged with 5-(3,4-dimethoxyphenyl)-7-(trifluoromethyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine-2-carboxylic acid (50 mg, 0.135 mmol), tert-butyl piperazine-1-carboxylate (75 mg, 0.404 mmol), HATU (205 mg, 0.539 mmol), N,N-diisopropylethylamine (0.059 mL, 0.337 mmol) and DMF (1.0 mL, 12.915 mmol). The vial was capped and the mixture was stirred for 6 hours at 40° C. The mixture was diluted with Ethyl acetate (5 mL), washed 2× with water (2 mL), washed with 0.1N aqueous HCl (2 mL), washed with saturated aqueous sodium bicarbonate (2 mL), washed with brine (2 mL), dried with sodium sulfate, filtered and concentrated. Compound was purified by chromatography on Biotage SP4 (Column Interchim 25 g, 30 μM) using 12-100% EtOAc/Heptane as eluent to afford intermediate tert-butyl 4-(5-(3,4-dimethoxyphenyl)-7-(trifluoromethyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine-2-carbonyl)piperazine-1-carboxylate (38 mg, 0.070 mmol, 52.3% yield).

reactant | 5-(3,4-dimethoxyphenyl)-7-(trifluoromethyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine-2-carboxylic acid | 0.135 mmol, 50 mg | COC=1C=C(C=CC1OC)C1NC=2N(C(C1)C(F)(F)F)N=C(C2)C(=O)O | C16H16F3N3O4
reactant | tert-butyl piperazine-1-carboxylate | 0.404 mmol, 75 mg | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | HATU | 0.539 mmol, 205 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 0.337 mmol, 0.059 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | DMF | 12.915 mmol, 1.0 mL | CN(C)C=O | C3H7NO
solvent | Ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
product | tert-butyl 4-(5-(3,4-dimethoxyphenyl)-7-(trifluoromethyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine-2-carbonyl)piperazine-1-carboxylate | 0.070 mmol, 38 mg, 52.3% yield | COC=1C=C(C=CC1OC)C1NC=2N(C(C1)C(F)(F)F)N=C(C2)C(=O)N2CCN(CC2)C(=O)OC(C)(C)C | C25H32F3N5O5
